US06964975B2
Methyl 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylate (183 mg) was dissolved in tetrahydrofuran/distilled water=4/1 (2 ml). Lithium hydroxide (66.5 mg) was added at room temperature, and the mixture was stirred at that temperature for 20 hours. After the completion of the reaction, 5%-aqueous hydrochloric acid was added to acidify the system, and the reaction product was extracted by liquid separation using chloroform and washed with saturated aqueous solution of sodium chloride. The product was dried over sodium sulfate to concentrate and the residue was dried using a vacuum pump. Thus, a useful intermidiate, i.e., 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylic acid (169 mg, yield 98%) was obtained.

reactant | Methyl 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylate | 183 mg | CC1=NOC(=C1C(=O)OC)C1=CC(=CC=C1)C | C13H13NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylic acid | 169 mg, yield 98% | CC1=NOC(=C1C(=O)O)C1=CC(=CC=C1)C | C12H11NO3
